US04710502
6-Chloro-3-[3-(1H-imidazol-1-yl)-propyl]-2-methyl-4-(3H)-quinazolinone
A mixture of 2.79 g of 2-amino-5-chloro-N-[3-(1H-imidazol-1-yl)propyl]benzamide, 5 ml of trimethyl orthoacetate and 10 ml of ethyl alcohol was heated at reflux for 24 hours. The resulting solution was concentrated and the residue was triturated with ether and gave a solid. The ether was decanted and the solid was dissolved in ethyl acetate and allowed to stand. The precipitate was collected and gave 650 mg of the desired product as tan crystals, mp 190°-192° C.

reactant | 2-amino-5-chloro-N-[3-(1H-imidazol-1-yl)propyl]benzamide | 2.79 g | NC1=C(C(=O)NCCCN2C=NC=C2)C=C(C=C1)Cl | C13H15ClN4O
reactant | trimethyl orthoacetate | 5 ml | C(C)(OC)(OC)OC | C5H12O3
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
product | 6-Chloro-3-[3-(1H-imidazol-1-yl)-propyl]-2-methyl-4-(3H)-quinazolinone | 650 mg | ClC=1C=C2C(N(C(=NC2=CC1)C)CCCN1C=NC=C1)=O | C15H15ClN4O
